US06423717B1
5-Chloro-3-methylbenzo[b]thiophene-2-sulphonic Acid [3-(4-Cyclopropylmethyl-piperazin-1-yl)-4-methoxy-phenyl]amide (E111)
To a solution of 3-(4-benzyl-piperazin-1-yl)-4-methoxy-phenylamine (D22) (1 mmol) in acetone (5 ml) was added 5-chloro-3-methylbenzothiophene-2-sulphonyl chloride (1 mmol). Stirring was continued at room temperature for 14 hrs. The hydrochloride salt of the sulphonamide was collected by filtration, triturated with diethyl ether and dried in vacuo in 42% yield. Found MH+ 506/508.

reactant | 3-(4-benzyl-piperazin-1-yl)-4-methoxy-phenylamine | 1 mmol | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=CC1OC)N | C18H23N3O
reactant | 5-chloro-3-methylbenzothiophene-2-sulphonyl chloride | 1 mmol | ClC=1C=CC2=C(C(=C(S2)S(=O)(=O)Cl)C)C1 | C9H6Cl2O2S2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 5-Chloro-3-methylbenzo[b]thiophene-2-sulphonic Acid [3-(4-Cyclopropylmethyl-piperazin-1-yl)-4-methoxy-phenyl]amide | 42% yield | C1(CC1)CN1CCN(CC1)C=1C=C(C=CC1OC)NS(=O)(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C | C24H28ClN3O3S2
